US06200989B1
3-[4-(4-fluorobenzamido) piperidinyl]-1-chloropropane
A mixture of 10.65 g of 4-(4-fluorobenzamido)piperidine (preparation 2) and potassium carbonate (9.93 g) in 160 ml of dry dimethylformamide was cooled to 0° C. and a solution of 1-bromo-3-chloropropane (5.68 ml) in 5.68 ml of dry dimethylformamide added dropwise thereto. After 3 hours at room temperature the reaction mixture was poured into 1600 ml of water and stirred for one hour. The solid which precipitated was recovered by filtration (7.1 g).

reactant | 4-(4-fluorobenzamido)piperidine | 10.65 g | FC1=CC=C(C(=O)NC2CCNCC2)C=C1 | C12H15FN2O
reactant | potassium carbonate | 9.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 5.68 ml | BrCCCCl | C3H6BrCl
reactant | water | 1600 ml | O | H2O
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5.68 ml | CN(C=O)C | C3H7NO
product | 3-[4-(4-fluorobenzamido) piperidinyl]-1-chloropropane | FC1=CC=C(C(=O)NC2CCN(CC2)CCCCl)C=C1 | C15H20ClFN2O
